US05604209
To a solution of 6-(α-acetoxybenzyl)-1-ethoxymethyl-5-isopropyluracil (13.3 g) in dioxane (53 ml) was added 5% Pd/C (0.66 g) and the mixture stirred for 4 hr at 50° C. under an atmosphere of hydrogen at ordinary pressure. After removal of Pd/C, the solvent was removed by distillation under reduced pressure. The residue was crystallized from ethanol (50 ml) in a refrigerator to yield 6-benzyl-1-ethoxymethyl-5-isopropyluracil (MKC-442) (10 g). M.p., 109°-110° C.

reactant | 6-(α-acetoxybenzyl)-1-ethoxymethyl-5-isopropyluracil | 13.3 g | C(C)(=O)OC(C1=CC=CC=C1)C1=C(C(NC(N1COCC)=O)=O)C(C)C | C19H24N2O5
solvent | dioxane | 53 ml | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 0.66 g | [Pd] | Pd
product | 6-benzyl-1-ethoxymethyl-5-isopropyluracil | 10 g | C(C1=CC=CC=C1)C1=C(C(NC(N1COCC)=O)=O)C(C)C | C17H22N2O3
